US05728835
4-Nitro-N-(2-methoxyphenyl)benzamide
With cooling in an ice bath, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC.HCl) (630 mg, 3.29 mmol) was added to 15 ml of methylene chloride solution containing o-anisidine (368 mg, 2.99 mmol) and 4-nitrobenzoic acid (500 mg, 2.99 mmol). After 1 hour of stirring at the same temperature, the reaction mixture was roughly adjusted to pH 8 with saturated sodium bicarbonate aqueous solution, extracted with methylene chloride and then washed with water and saturated brine in that order. After drying on anhydrous magnesium sulfate, the solvent was removed by evaporation, and the resulting solid material was purified by silica gel column chromatography (methylene chloride) to obtain 712 mg (87.4%) of the title compound in the form of yellow powder.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.29 mmol, 630 mg | Cl.CN(CCCN=C=NCC)C
reactant | o-anisidine | 2.99 mmol, 368 mg | COC=1C(=CC=CC1)N | C7H9NO
reactant | 4-nitrobenzoic acid | 2.99 mmol, 500 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-Nitro-N-(2-methoxyphenyl)benzamide | 712 mg, 87.4% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C14H12N2O4
